US07737166B2
2-Cyclopropyl-7-fluoro-6-(3-hydroxycyclopent-1-enyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-305)
6-[3-(tert-Butyldimethylsiloxy)cyclopent-1-enyl]-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-304) (275 mg, 0.67 mmol) was dissolved in tetrahydrofuran (6 ml), and at 0° C., tetra-n-butylammonium fluoride (1.0 M tetrahydrofuran solution, 1.0 ml, 1.0 mmol) was added. After stirring at room temperature under nitrogen atmosphere for 16 hours, aqueous saturated ammonium chloride solution was added to the solution at 0° C., followed by stirring at the same temperature for 5 minutes. This was extracted three times with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=1:1, v/v) to obtain the entitled compound (91 mg, 46%) as a white solid.

reactant | 6-[3-(tert-Butyldimethylsiloxy)cyclopent-1-enyl]-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.67 mmol, 275 mg | O([Si](C)(C)C(C)(C)C)C1C=C(CC1)C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C23H29FN2O2Si
reactant | tetra-n-butylammonium fluoride | 1.0 mmol, 1.0 M, 1.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-Cyclopropyl-7-fluoro-6-(3-hydroxycyclopent-1-enyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 91 mg, 46% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC(CC2)O)C)C#N | C17H15FN2O2
